* ********************************************************
* Control library for LTspice
* Created by Marcos Alonso, University of Oviedo, Spain
* marcos@uniovi.es
* For educational purposes only
* Last update: December 22, 2023
* For information on this library, please visit:
* https://www.youtube.com/c/MarcosAlonsoElectronics
**********************************************************
****************************
* Adder, 2 inputs
****************************
.subckt Adder2 in1 in2 out
E1 out 0 value={v(in1)+v(in2)}
Rin1 in1 0 10Meg
Rin2 in2 0 10Meg
.ends Adder2
****************************
* Adder, 3 inputs
****************************
.subckt Adder3 in1 in2 in3 out
E1 out 0 value={v(in1)+v(in2)+v(in3)}
Rin1 in1 0 10Meg
Rin2 in2 0 10Meg
Rin3 in3 0 10Meg
.ends Adder3
****************************
* Subtractor, 2 inputs
****************************
.subckt Sub2 in1 in2 out
E1 out 0 value={v(in1)-v(in2)}
Rin1 in1 0 10Meg
Rin2 in2 0 10Meg
.ends Sub2
****************************
* Subtractor, 3 inputs
****************************
.subckt Sub3 in1 in2 in3 out
E1 out 0 value={v(in1)-v(in2)-v(in3)}
Rin1 in1 0 10Meg
Rin2 in2 0 10Meg
Rin3 in3 0 10Meg
.ends Sub3
****************************
* Constant
****************************
.subckt Constant out
E1 out 0 value={K}
.ends Constant
****************************
* Multiplier
****************************
.subckt Mul in1 in2 out
E1 out 0 value = {V(in1)*V(in2)}
Rin1 in1 0 10Meg
Rin2 in2 0 10Meg
.ends Mul
****************************
* Divider
****************************
.subckt Div in1 in2 out
E1 out 0 value = {V(in1)/( V(in2) + eps)}
Rin1 in1 0 10Meg
Rin2 in2 0 10Meg
.ends Div
****************************
* Power
****************************
.subckt Pow in out
E1 out 0 value = {V(in)**p}
Rin in 0 10Meg
.ends Pow
****************************
* Log10
****************************
.subckt log10 in out
E1 out 0 value = {log10(V(in))}
Rin in 0 10Meg
.ends log10
****************************
* Gain
****************************
.subckt Gain in out
E1 out 0 value={A*v(in)}
Rin in 0 10Meg
.ends Gain
****************************
* Integrator
****************************
.subckt Integ in out
E1 in1 0 value={v(in)}
E2 out 0 value={i(L1)}
L1 ind 0 1
R1 ind in1 1n
Rin in 0 10Meg
.ic i(L1) {ic}
.ends Integ
******************************************************
* Integrator using built-in idt function
******************************************************
.subckt idt in out
Rin in 0 10Meg
E1 out 0 value={idt(v(in),ic)}
.ends idt
*****************************************************
* Integrator with reset using built-in idt function
*****************************************************
.subckt idtr in out reset
Rin in 0 10Meg
Rr  reset 0 10Meg
E1 out 0 value={idt(v(in),ic, v(reset))}
.ends idtr
********************************************
* Differentiator
********************************************
.subckt Diff in out
E1 in1 0 value={v(in)}
E2 out 0 value={i(C1)}
R1 cap in1 1n
C1 cap 0 1
Rin in 0 10Meg
.ends Diff
**********************************************
* Differentiator using built-in ddt function
**********************************************
.subckt ddt in out
Rin in 0 10Meg
E1 out 0 value={ddt(V(in))}
.ends ddt
**********************************************
* Limiter
**********************************************
.subckt Limiter in out
E1 in1 0 value={if(V(in)>vth, vth,V(in))}
E3 out 0 value={if(V(in1)<vtl, vtl,V(in1))}
Rin in 0 10Meg
.ends Limiter
**********************************************
* Transfer Function 1
**********************************************
.subckt TF1 in out
E1 out 0 in 0 Laplace={{k}/(s+{a})}
Rin in 0 10Meg
.ends TF1
**********************************************
* Transfer Function 2
**********************************************
.subckt TF2 in out
E1 out 0 in 0 Laplace={{k}*(s+{b})/(s+{a})}
Rin in 0 10Meg
.ends TF2
**********************************************
* Transfer Function 3
**********************************************
.subckt TF3 in out
E1 out 0 in 0 Laplace={{k}/({a}*s**2+{b}*s+c)}
Rin in 0 10Meg
.ends TF3
**************************************************************
* Transfer Function 4
**************************************************************
.subckt TF4 in out
E1 out 0 in 0 Laplace={{k}*({d}*s+{e})/({a}*s**2+{b}*s+c)}
Rin in 0 10Meg
.ends TF4
**************************************************************
* Transfer Function 5
**************************************************************
.subckt TF5 in out
E1 out 0 in 0 Laplace={{k}*(s+{c})/((s+{a})*(s+{b}))}
Rin in 0 10Meg
.ends TF5
**************************************************************
* Transfer Function 6
**************************************************************
.subckt TF6 in out
E1 out 0 in 0 Laplace={{k}*(s+{c})*(s+{d})/((s+{a})*(s+{b}))}
Rin in 0 10Meg
.ends TF6
**********************************************
* Step
**********************************************
.subckt step out
V1 out 0 PULSE(0 {A} {td} {1/SR} {1/SR} 1meg 10meg)
.ends step
**********************************************
* AC voltage source
**********************************************
.subckt acs out
V1 out 0 AC {Amp} {Phase}
.ends acs
*******************************************************************
* Sawtooth
*******************************************************************
.subckt sawtooth out
V1 out 0 PULSE({Vlow} {Vhigh} 0 {0.99*1/f} {0.01*1/f} 0 {1/f})
.ends sawtooth
*******************************************************************
* CLK
*******************************************************************
.subckt clk out
V1 out 0 PULSE(0 {Vhigh} {tdelay} {1/SR} {1/SR} {ton} {1/f})
.ends clk
*******************************************************************
* Sine waveform
*******************************************************************
.subckt sinew out
V1 out 0 SINE({dc} {A} {f} 0 0 {phi})
.ends sinew
*******************************************************************
* ABS
*******************************************************************
.subckt abs in out
E1 out 0 value = {k*abs(V(in))}
Rin in 0 10Meg
.ends abs
*******************************************************************
* Time
*******************************************************************
.subckt time out
E1 out 0 value = {time}
.ends time
*******************************************************************
* Sine
*******************************************************************
.subckt sine in out
E1 out 0 value = {A*sin(w*V(in) + phi*pi/180)}
Rin in 0 10Meg
.ends sine
*******************************************************************
* Exp
*******************************************************************
.subckt exp in out
E1 out 0 value = {k1*exp(k2*V(in)) + k3}
Rin in 0 10Meg
.ends exp
*******************************************************************
* Floor
*******************************************************************
.subckt floor in out
E1 out 0 value = {floor(V(in))}
Rin in 0 10Meg
.ends floor
*******************************************************************
* Sgn
*******************************************************************
.subckt sgn in out
E1 out 0 value={if(V(in)>0, {Vhigh}, {Vlow})}
Rin in 0 10Meg
.ends sgn
*******************************************************************
* Sqrt
*******************************************************************
.subckt sqrt in out
E1 out 0 value = {sqrt(V(in))}
Rin in 0 10Meg
.ends sqrt
*******************************************************************
* Current sensor
*******************************************************************
.subckt isense in+ in- out
V1 in+ in- 0
E1 out 0 value = {k*i(V1)}
.ends isense
*******************************************************************
* Comparator
*******************************************************************
.subckt comp in+ in- out
E1 out 0 value = {if(V(in+, in-)>0, {Vhigh}, {Vlow})}
Rin+ in+ 0 10Meg
Rin- in- 0 10Meg
Rin  in+ in- 1Meg
.ends comp
*******************************************************************
* Comparator with hysteresis
*******************************************************************
.subckt comp_h in out out1
XU1 in hh ho comp Vhigh=1 Vlow=0
XU2 hl in lo comp Vhigh=1 Vlow=0
V1 hl 0 {Vhl}
V2 hh 0 {Vhh}
A1 ho lo 0 0 0 out1 out 0 SRFLOP
Rin in 0 10Meg
.ends comp_h
*******************************************************************
* PI compensator
*******************************************************************
.subckt pi_comp in out
XU1 in prop Gain A={k}
XU2 in mid Gain A={1/tau}
XU3 mid integ idt ic=0
XU4 prop integ out Adder2
Rin in 0 10Meg
.ends pi_comp
*******************************************************************
* PID compensator
*******************************************************************
.subckt pid_comp in out
XU1 in prop Gain A={k}
XU2 in mid1 Gain A={1/tau_i}
XU3 mid1 integ idt ic=0
XU4 diff prop integ out Adder3
XU5 in mid2 Gain A={tau_d}
XU6 mid2 diff ddt
Rin in 0 10Meg
.ends pid_comp
*******************************************************************
* Gate driver
*******************************************************************
.subckt driver in out+ out-
E1 mid out- value={k*V(in)}
R1 out+ mid 10
Rin in 0 10Meg
.ends driver
*******************************************************************
* Switch
*******************************************************************
.subckt switch ctrl t1 t2
S1 t2 t1 ctrl 0 SW1
Rdum ctrl 0 10Meg
.model SW1 SW (Ron={Ron} Roff={Roff} Vt={Vt} Vh={Vh})
.ends switch
*******************************************************************
* Idealized diode
*******************************************************************
.subckt idiode A K
D1 A K Diode
.model Diode D(Ron={Ron} Roff={Roff} Vfwd={Vfwd} Vrev={Vrev})
.ends idiode
*******************************************************************
* Linear transformation
*******************************************************************
.subckt lineart in out
E1 out 0 value={m*V(in)+k}
Rin in 0 10Meg
.ends lineart
*******************************************************************
* One-shot circuit
* See video PE #60 for last changes on this component
*******************************************************************
.subckt oneshot tshot clk out out1
A1 set reset 0 0 0 out1 out 0 SRFLOP
A3 0 h 0 trig 0 0 set 0 AND
R1 0 trig 1
C1 clk1 trig 10n
XU2 h Constant K=1
XU3 ta Time
XU4 set st ta switch Ron=0.1m Roff=10meg Vt=0.5 Vh=-0.2
C2 st 0 10u
XU5 st ts1 ut Adder2
XU7 ta ut reset comp Vhigh=1 Vlow=0
XU9 tshot ts1 Gain A={tgain}
XU1 clk clk1 Gain A=2
.ends oneshot
*******************************************************************
* Voltage Controlled Oscillator
*******************************************************************
.subckt vco f d out
C2 tri 0 1
XU1 del tri 0 switch Ron=1n Roff=1meg Vt=0.5 Vh=-0.2
XU3 tri comp NC_01 comp_h Vhh=1.1 Vhl=0.15
R2 comp del 1
C1 del 0 1n
G1 0 tri f1 0 1
XU4 refd tri out comp Vhigh=1 Vlow=0
XU6 d1 min refd Adder2
XU7 min Constant K={0.1}
XU2 d d1 Gain A={1/dgain}
XU5 f f1 Gain A={fgain}
Rdum NC_01 0 1Meg
.ic V(tri)=0.1
.ends vco
*******************************************************************
* Zero order hold
*******************************************************************
.subckt zoh in clk out
XU1 sample in in_s switch Ron=1 Roff=10meg Vt=0.5 Vh=-0.2
R1 0 dt 1
C1 clk1 dt {tau}
A1 dt 0 0 0 0 0 sample 0 BUF
C2 in_s 0 {tau/10}
E1 out 0 value={V(in_s)}
XU2 CLK clk1 Gain A=2
.ends zoh
****************************************************************************
* AD converter
****************************************************************************
.subckt adc in clk out
E1 out 0 value = {floor ( (V(samp_l) - Vrefl)*2**nbits/(Vrefh - Vrefl) )}
XU2 samp samp_l Limiter vth={Vrefh} vtl={Vrefl}
XU1 in CLK samp zoh tau={tau}
.ends adc
****************************************************************************
* Digital ramp
****************************************************************************
.subckt dramp out
XU3 ramp clk out adc Vrefh=1 Vrefl=0 nbits={nbits} tau={tau}
XU1 ramp Sawtooth Vlow=0 Vhigh=1 f={f}
XU2 clk CLK tdelay=0 Vhigh=1 SR=1e8 ton={0.2*1/(2**nbits*f)} f={2**nbits*f}
.ends dramp
****************************************************************************
* Digital sine
****************************************************************************
.subckt dsine out
XU3 sin clk out adc Vrefh=1 Vrefl=0 nbits={nbits} tau={tau}
XU2 clk CLK tdelay=0 Vhigh=1 SR=1e8 ton={0.2*1/(2**nbits*f)} f={2**nbits*f}
XU1 sin sinew dc={0.5} A=0.5 f={f} phi={phi}
.ends dsine
****************************************************************************
* Digital PWM
****************************************************************************
.subckt dpwm in out1 out
XU2 in out1 out comp Vhigh={Vhigh} Vlow={Vlow}
XU3 out1 dramp f={f} nbits={nbits} tau={tau}
.ends dpwm
****************************************************************************
* Discrete delay
****************************************************************************
.subckt ddelay yn clk yn-1
A1 CLK 0 0 0 0 _clk 0 0 BUF
XU1 yn _clk int zoh tau={tau}
XU2 int CLK yn-1 zoh tau={tau}
.ends ddelay
****************************************************************************
* Discrete delay with three outputs
****************************************************************************
.subckt ddelay1 yn clk yn-1 yn-2 yn-3
XU1 yn CLK yn-1 ddelay tau={tau}
XU2 yn-1 CLK yn-2 ddelay tau={tau}
XU3 yn-2 CLK yn-3 ddelay tau={tau}
.ends ddelay1
****************************************************************************
* First-order low-pass filter
****************************************************************************
.subckt lpf in out
XU1 in 1 Gain A={k}
XU4 1 out 2 Sub2
XU2 2 3 Gain A={wo}
XU3 3 out idt ic={ic}
.ends lpf
****************************************************************************
* Second-order system
****************************************************************************
.subckt sos in out
XU1 in 5 Gain A={k}
XU2 1 2 idt ic={ic1}
XU3 2 out idt ic={ic0}
XU4 2 3 Gain A={2*xi/wo}
XU5 5 3 out 4 Sub3
XU6 4 1 Gain A={wo**2}
.ends sos
****************************************************************************
* Ideal voltage trafo
****************************************************************************
.subckt ivtrafo v11 v12 v21 v22
E1 v20 v22 value={n*v(v11,v22)}
G1 v11 v12 value={n*i(E1)}
R1 v21 v20 1m
.ends ivtrafo
*******************************************************************
* Idealized Zener diode
*******************************************************************
.subckt zdiode A K
XU1 K N001 idiode Vfwd=10m Ron=10m Vrev=10k Roff=1meg
XU2 A K idiode Vfwd={Vfwd} Ron={Ron} Vrev=10k Roff=1meg
V1 N002 A {Vz}
R1 N001 N002 {Rz}
.ends zdiode
***************************************************
* Piecewise NPN BJT model
***************************************************
.subckt pwnpn b c e
D1 B N005 Dmodel
R1 N006 N005 {Rbe}
V1 N006 E {Vth}
G1 N001 E value={Beta*i(D1)}
D2 N003 N001 Dmodel
R4 N002 N004 {Rce}
D3 N001 N002 Dmodel
D4 C N001 Dmodel
E1 N004 E value = {Vsat + i(G1)*Rsat}
R5 N003 N004 {Rsat}
.model Dmodel D(Ron=1m Roff=100Meg Vfwd=1m Vrev=1k)
.ends pwnpn
***************************************************
* Piecewise PNP BJT model
***************************************************
.subckt pwpnp b c e
D1 E N006 Dmodel
R1 N006 N005 {Rbe}
V1 N005 B {Vth}
G1 E N001 value={Beta*i(D1)}
D2 N002 N004 Dmodel
R4 N003 E {Rce}
D3 N003 N002 Dmodel
D4 N001 C Dmodel
E1 N002 N001 value = {Vsat + i(G1)*Rsat}
R5 N004 E {Rsat}
.model Dmodel D(Ron=1m Roff=100Meg Vfwd=1m Vrev=1k)
.ends pwpnp






















